US07297810B2
A solution containing 15 grams of 3-[2,7-Dibromo-9-(3-hydroxypropyl)-9H-fluorene-9-yl]-propane-1-ol and 18.7 grams of diisopropylethylamine in 150 ml of tetrahydrofuran was cooled to 10° C., and to it was slowly added a solution of 7.7 grams of acryloyl chloride in 18 ml of tetrahydrofuran. The temperature was maintained at 10° C. during the addition. After stirring at 10° C. for one hour the mixture was poured into a mixture containing 100 ml of 2% aqueous HCl and 100 ml of ethyl acetate. The organic phase was separated and dried over anhydrous sodium sulfate. The solvent was removed and the residue purified by column chromatography on silica gel eluted with 15% ethyl acetate in hexane to give 8.5 grams of acrylic acid 3-[9-(acryloyloxy-propyl)-2,7-dibromo-9H-fluoren-9-yl]-propyl ester. This product was verified by NMR analysis to be present and pure.

reactant | 3-[2,7-Dibromo-9-(3-hydroxypropyl)-9H-fluorene-9-yl]-propane-1-ol | 15 grams | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCO)CCCO | C19H20Br2O2
reactant | diisopropylethylamine | 18.7 grams | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 7.7 grams | C(C=C)(=O)Cl | C3H3ClO
reactant | HCl | 100 ml | Cl | ClH
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | acrylic acid 3-[9-(acryloyloxy-propyl)-2,7-dibromo-9H-fluoren-9-yl]-propyl ester | 8.5 grams | C(C=C)(=O)OCCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)CCCOC(C=C)=O | C25H24Br2O4
